US06313137B1
Synthesis of 2,3-dimethyl-8-(2-(2-hydroxyethyl)-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxamide
2,3-dimethyl-8-(2-(2-(benzyloxy)ethyl)-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxamide (0.13 g, 0.29 mmol), cyclohexene (1 ml), Pd(OH)2 cat. (25 mg) were added to ethanol (5 ml) and the mixture was refluxed overnight. An additional amount of cyclohexene (1 ml) and Pd(OH)2 cat. (25 mg) were added and the mixture was refluxed for 4 h. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using methylene chloride:methanol (9:1) as eluent. Treating the residue with chloroform and filtration gave 0.1 g (99%) of the title compound.

reactant | 2,3-dimethyl-8-(2-(2-(benzyloxy)ethyl)-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxamide | 0.29 mmol, 0.13 g | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)CCOCC2=CC=CC=C2)C(=O)N)C1C | C27H30N4O2
reactant | cyclohexene | 1 ml | C1=CCCCC1 | C6H10
reactant | cyclohexene | 1 ml | C1=CCCCC1 | C6H10
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2,3-dimethyl-8-(2-(2-hydroxyethyl)-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxamide | 0.1 g, 99% | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)CCO)C(=O)N)C1C | C20H24N4O2
